US04250294
Dipyridinium styphnate
500 grams (2.04 moles) of dry styphnic acid are added in portions, with vigorous stirring, to two liters of dry pyridine. The mixture warms up slightly and a yellow reaction product precipitates. The mixture is stirred for another hour in the warm state, and then the cooled mixture is freed of solids by filtration. The solids are washed with one liter of ether, suspended in two liters of ether, freed of the solvent by filtration, again washed with 500 ml of ether, and dried in air.

reactant | styphnic acid | 2.04 moles, 500 grams | C1([N+](=O)[O-])=C(O)C([N+](=O)[O-])=CC([N+](=O)[O-])=C1O | C6H3N3O8
solvent | pyridine | two liters | N1=CC=CC=C1 | C5H5N
product | Dipyridinium styphnate | C1([N+](=O)[O-])=C([O-])C([N+](=O)[O-])=CC([N+](=O)[O-])=C1[O-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1 | InChI=1S/C6H3N3O8.2C5H5N/c10-5-2(7(12)13)1-3(8(14)15)6(11)4(5)9(16)17;2*1-2-4-6-5-3-1/h1,10-11H;2*1-5H
